US07820673B2
85a) tert-butyl 4-((5-methyl-3-oxo-1H-imidazo[1,5-c]imidazol-2(3H)-yl)methyl)-1-piperidinecarboxylate
To a solution of tert-butyl 4-(aminomethyl)-1-piperidinecarboxylate (K. Ito et al., Eur. J. Med. Chem., 34, 977 (1999); 3.7 g), 2-methylimidazole-4-carbaldehyde (1.9 g) and acetic acid (1 ml) in 1,2-dichloroethane (100 ml) was added sodium triacetoxyborohydride (5.6 g), and mixed at room temperature for 15 hours. pH of the aqueous layer was adjusted to about 12 by adding a 1 N aqueous sodium hydroxide solution to the reaction solution, and then extracted with chloroform. The extract was dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The resulting yellow oil was dissolved in dichloromethane (100 ml), DBU (2.6 ml) and N,N′-carbonyldiimidazole (2.8 g) were added thereto, and mixed at room temperature for 15 hours. The reaction mixture was diluted with water and chloroform and the organic layer was collected by separation, and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified with silica gel column (ethyl acetate:ethanol=5:1) to obtain the title compound as a yellow oil (3.5 g, 59%).

reactant | tert-butyl 4-(aminomethyl)-1-piperidinecarboxylate | 3.7 g | NCC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | 2-methylimidazole-4-carbaldehyde | 1.9 g | CC=1NC=C(N1)C=O | C5H6N2O
reactant | sodium triacetoxyborohydride | 5.6 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | tert-butyl 4-((5-methyl-3-oxo-1H-imidazo[1,5-c]imidazol-2(3H)-yl)methyl)-1-piperidinecarboxylate | 3.5 g, 59% | CC1=NC=C2N1C(N(C2)CC2CCN(CC2)C(=O)OC(C)(C)C)=O | C17H26N4O3
